US05360813
2-(2,4-Dichlorophenyl)-3-(4-trifluromethyl-2-nitrobenzenesulfonamido)-1(1H-1,2,4-triazol-1-yl)propan-2-ol
Following the procedure described in the preceeding examples but using 2-(2,4-dichlorophenyl)-3-amino-1-(1H-1,2,4-triazol-1-yl)propan-2-ol and 2-nitro-4-trifluromethylbenzenesulfonylchloride, the title com-pound was obtained in a similar yield:

reactant | 2-(2,4-dichlorophenyl)-3-amino-1-(1H-1,2,4-triazol-1-yl)propan-2-ol | ClC1=C(C=CC(=C1)Cl)C(CN1N=CN=C1)(CN)O | C11H12Cl2N4O
reactant | 2-nitro-4-trifluromethylbenzenesulfonylchloride | [N+](=O)([O-])C1=C(C=CC(=C1)C(F)(F)F)S(=O)(=O)Cl | C7H3ClF3NO4S
product | 2-(2,4-Dichlorophenyl)-3-(4-trifluromethyl-2-nitrobenzenesulfonamido)-1(1H-1,2,4-triazol-1-yl)propan-2-ol | ClC1=C(C=CC(=C1)Cl)C(CN1N=CN=C1)(CNS(=O)(=O)C1=C(C=C(C=C1)C(F)(F)F)[N+](=O)[O-])O | C18H14Cl2F3N5O5S
